US04186199
5-Chloro-1-(2-formamidophenyl)indoline
A stirred mixture, under N2, of 24.3 g of 1-(2-amino-phenyl)-5-chloroindoline hydrochloride, of Example 5, and 150 ml of dry dimethylformamide (DMF) is immersed in a 100° C. pre-heated oil bath. Solution occurs at 60° C. when 14.4 g of solid sodium methoxide is added in one portion. The mixture is rapidly heated to reflux and kept there for 45 minutes during which dimethylamine evolves copiously. The reaction mixture is then treated, in portions and without further heating, with 2 liters of water to precipitate the product as an oil. The water is removed by decantation. The oil is taken up in chloroform, extracted with H2O, with 3N--HCl, once again with H2O, dried over sodium sulfate and concentrated to a hard glass. This is dissolved in hot benzene (charcoal) to which hexane is added. The solid of 5-chloro-1-(2-formamidophenyl)indoline, m.p. 126°-129° C. is collected.

reactant | 1-(2-amino-phenyl)-5-chloroindoline hydrochloride | 24.3 g | Cl.NC1=C(C=CC=C1)N1CCC2=CC(=CC=C12)Cl
reactant | dimethylformamide | 150 ml | CN(C=O)C | C3H7NO
reactant | sodium methoxide | C[O-].[Na+]
reactant | dimethylamine | CNC | C2H7N
solvent | water | 2 liters | O | H2O
product | 5-Chloro-1-(2-formamidophenyl)indoline | ClC=1C=C2CCN(C2=CC1)C1=C(C=CC=C1)NC=O | C15H13ClN2O
